US08293751B2
4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(4-methanesulfonyl-phenoxy)-2-methyl-pyrimidine-5-carbonitrile
To a solution of 4-chloro-6-(4-methanesulfonyl-phenoxy)-2-methyl-pyrimidine-5-carbonitrile (80.0 mg, 0.25 mmol) and 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine (107.1 mg, 0.50 mmol) in DMF (1 mL) was added potassium carbonate (68.3 mg, 0.50 mmol) and the resulting mixture was left stirring for 2 hours at room temperature. Worked up with ethyl acetate, sodium bicarbonate, dried with magnesium sulfate and evaporated. The crude product was crystallized with ethyl acetate/hexane-over night and filtered off to afford Compound A164 as a yellow solid (30.6 mg). LCMS (ESI) for C23H26N6O4S: m/z 483.3 (M+H+, 100%), 1H NMR 400 MHz CDCl3 δ (ppm): 8.00 (d, 2H), 7.38 (d, 2H), 4.82 (m, 2H), 3.45 (m, 2H), 3.31 (m, 1H), 3.10 (s, 3H), 3.08 (m, 1H), 2.35 (s, 3H), 2.24 (m, 2H), 2.03 (m, 2H), 1.34 (d, 6H).

reactant | 4-chloro-6-(4-methanesulfonyl-phenoxy)-2-methyl-pyrimidine-5-carbonitrile | 0.25 mmol, 80.0 mg | ClC1=NC(=NC(=C1C#N)OC1=CC=C(C=C1)S(=O)(=O)C)C | C13H10ClN3O3S
reactant | 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine | 0.50 mmol, 107.1 mg | C(C)(C)C1=NOC(=N1)C1CCNCC1 | C10H17N3O
reactant | potassium carbonate | 0.50 mmol, 68.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(4-methanesulfonyl-phenoxy)-2-methyl-pyrimidine-5-carbonitrile | 30.6 mg | C(C)(C)C1=NOC(=N1)C1CCN(CC1)C1=NC(=NC(=C1C#N)OC1=CC=C(C=C1)S(=O)(=O)C)C | C23H26N6O4S
